US05142056
A. N-Boc-valinyl-valine benzyl ester
Boc-Val-OH (2.86 g, 13.2 mmol) was coupled to valine benzyl ester p-toluenesulfonate (5.0 g, 13.2 mmol) using the procedure of Example 55 to give 5.41g, (100%) of the desired product (RF 0.15; 20% ethyl acetate in hexane) as a colorless gum. Mass spectrum M+H)+ =407.

reactant | Boc-Val-OH | 13.2 mmol, 2.86 g | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | valine benzyl ester p-toluenesulfonate | 13.2 mmol, 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)C(C)C)=O
product | N-Boc-valinyl-valine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)C(C)C)=O | C22H34N2O5
